US05274116
(±)-Phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate
To a solution of 1-aminopyrrole (4.92 g) and DCC (6.18 g) in dry DCM (100 ml) was added carbobenzyloxy-D,L-serine (7.18 g) in small portions over a period of about 1 hour. After stirring overnight at room temperature, the precipitate was removed by filtration, and stirred in boiling ethyl acetate. The mixture was filtered and the filtrate was combined with the filtrate of the reaction mixture and evaporated to dryness. The residue was purified by flash column chromatography (silica gel, DCM/methanol 20:1) and the appropriate fractions were concentrated. Recrystallization of the residue from ethyl acetate afforded 4.68 g of the product as a powder, m.p. 153°-154° C.

reactant | 1-aminopyrrole | 4.92 g | NN1C=CC=C1 | C4H6N2
reactant | DCC | 6.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbobenzyloxy-D,L-serine | 7.18 g | C(=O)(OCC1=CC=CC=C1)NC(CO)C(=O)O | C11H13NO5
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (±)-Phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 4.68 g | C1(=CC=CC=C1)COC(NC(C(NN1C=CC=C1)=O)CO)=O | C15H17N3O4
